US06821967B2
a. 2-chloro-1-methyl-benzimidazole
A solution of 5 g (0.032 mol) of 2-chlorobenzimidazole in 30 ml of dimethylformamide is combined at 0° C. with 1.4 g (0.033 mol) of sodium hydride (55%). After one hour 2.06 ml (0.033 mol) of methyl iodide are added dropwise and the mixture is stirred for one hour. Then the reaction mixture is mixed with water, the precipitate formed is filtered off and the product is recrystallised from petroleum ether.

reactant | 2-chlorobenzimidazole | 0.032 mol, 5 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | sodium hydride | 0.033 mol, 1.4 g | [H-].[Na+]
reactant | methyl iodide | 0.033 mol, 2.06 ml | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-chloro-1-methyl-benzimidazole | ClC1=NC2=C(N1C)C=CC=C2 | C8H7ClN2
